US04957928
At -10° and while stirring, 1.41 g of sodium borohydride are introduced within a period of 90 minutes into a suspension of 8.45 g (18 mmol) of 1-[2-(chroman-3-yl)ethyl]-3-methoxycarbonylpyridinium p-toluenesulphonate in 43 ml of methanol. Stirring is continued for 1 hour at 0° and for 2 hours at room temperature and then 50 ml of water are added to the reaction mixture and extraction by shaking is carried out twice with 100 ml of dichloromethane each time. The dichloromethane phases are combined, dried over magnesium sulphate and concentrated to dryness by evaporation. The crude product is purified by chromatography on 150 g of silica gel (0.063-0.2 mm) using ethyl acetate as the eluant. The main eluate, which is concentrated by evaporation, is treated with ethereal hydrochloric acid to yield 1-[2-(chroman-3-yl)ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrochloride having a melting point of 175°-177°.

reactant | sodium borohydride | 1.41 g | [BH4-].[Na+]
reactant | 1-[2-(chroman-3-yl)ethyl]-3-methoxycarbonylpyridinium p-toluenesulphonate | 18 mmol, 8.45 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.O1CC(CC2=CC=CC=C12)CC[N+]1=CC(=CC=C1)C(=O)OC
reactant | water | 50 ml | O | H2O
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | methanol | 43 ml | CO | CH4O
product | 1-[2-(chroman-3-yl)ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C=1CN(CCC1)CCC1COC2=CC=CC=C2C1 | InChI=1S/C18H23NO3.ClH/c1-21-18(20)16-6-4-9-19(12-16)10-8-14-11-15-5-2-3-7-17(15)22-13-14;/h2-3,5-7,14H,4,8-13H2,1H3;1H
